US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(3,4-methylenedioxycinnamoyl)-L-lysine (Compound No. 163)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with 3,4-methylenedioxycinnamic acid under the conditions described in example 86 to yield 76% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | 3,4-methylenedioxycinnamic acid | C1OC=2C=C(C=CC(=O)O)C=CC2O1 | C10H8O4
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(3,4-methylenedioxycinnamoyl)-L-lysine | 76% | C(C(C)C)N([C@@H](CCCCNC(C=CC1=CC2=C(C=C1)OCO2)=O)C(=O)O)S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-] | C26H31N3O9S
